US06951888B2
(c) (2,4,6-trimethylphenyl)acetic acid
155 g (2,4,6-trimethylphenyl)acetonitrile are added to a solution of 1.1 L of water and 915 mL of concentrated sulfuric acid heated to 50° C. The mixture is refluxed for 6 hours with stirring. Then the reaction mixture is poured onto 3 kg of ice. The solid is suction filtered and washed with water. Yield: 131 g (86%); melting point: 163° C.-166° C.

reactant | (2,4,6-trimethylphenyl)acetonitrile | 155 g | CC1=C(C(=CC(=C1)C)C)CC#N | C11H13N
reactant | sulfuric acid | 915 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 1.1 L | O | H2O
product | (2,4,6-trimethylphenyl)acetic acid | CC1=C(C(=CC(=C1)C)C)CC(=O)O | C11H14O2
